datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8]([S:9][H:15])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:13])([H:4])[H:5].[C:7]([C:8]([S:9][H:15])[H:14])([H:10])([H:11])[H:12],62.76
[C:0]1([H:6])=[C:1]([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([H:14])[H:15].[H:16]>>[C:0]1([H:6])=[C:1]([H:7])[C:2]([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([H:14])[H:15].[H:8][H:16],10.41816
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:15]([C:14](=[C:13]([H:18])[H:19])[H:20])([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26],35.1456
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[c:26]1[c:27]([H:32])[c:28]([H:33])[c:29]([H:34])[c:30]([H:35])[c:31]1[H:36]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([H:18])([H:19])[H:20])([c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[c:26]1[c:27]([H:32])[c:28]([H:33])[c:29]([H:34])[c:30]([H:35])[c:31]1[H:36])[H:14])([H:12])[H:13],0.0
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])([H:17])[H:18])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[C:7]1([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:10],146.9
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[H:13]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[H:9])([H:8])[H:13])[H:7])([H:5])[H:6],7.99144
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([H:16])([H:17])[H:18])[C:7](=[C:8]([H:20])[H:21])[H:19])([H:14])[H:15])[H:13])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([H:13])[C:4]([H:14])([H:15])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7](=[C:8]([H:20])[H:21])[H:19])[H:11])([H:9])[H:10],170.958
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:32][H:33]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:10])([H:11])[H:12].[H:13][O:32][H:33],-2.493664
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19]([c:20]1[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]1[H:32])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:19]([c:20]1[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]1[H:32])([H:26])[H:27])[H:9])([H:7])[H:8],35.4803
[C:0](=[C:1]=[C:2]([C:3](=[C:4]=[C:5]([H:10])[H:11])[H:9])[H:8])([H:6])[H:7]>>[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:6])[H:9])[H:8])[H:7],163.807
[C:0]([C:1](=[C:2]([H:11])[H:12])[C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([H:22])[H:23])[H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:9])[H:10]>>[C:0]([C:1](=[C:2]([H:11])[H:12])[C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([H:22])[H:23])[H:21])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:9])([H:10])[H:19],63.1784
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21](=[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[C:25]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:15])[C:23]([C:22](=[C:21]([H:26])[H:27])[H:28])([C:24]([H:29])([H:30])[H:31])[C:25]([H:32])([H:33])[H:34])[H:11],42.9697
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6]([H:7])([H:8])[H:9]>>[C:0]([O:1])([H:2])([H:3])[H:4].[H:5][C:6]([H:7])([H:8])[H:9],28.1165
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],55.2288
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])=[C:5]([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([H:12])([H:13])[C:3]([C:4]([H:14])([H:15])[H:16])[C:5]1([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22],74.9354
